US06159964
a) Ethyl 2-[4-(2-hydroxyethylamino)phenyl]propionate
Following the procedure of Himmelsbach, et. al., EP 0587134, Example V, glycolaldehyde dimer (Aldrich) (1 mmol) is added to a solution of methyl 2-(4-aminophenyl)propionate (1 mmol) in aqueous CH3CN (pH 6-7) (10 mL), followed by NaBH3CN (1.2 mmol), and the mixture is allowed to stir for 1 h. The mixture concentrated to an oil, and the residue is dissolved in a mixture of ice water and EtOAc. The aqueous layer is neutralized with 4N NaOH and washed with EtOAc. The organic phase is concentrated to an oil. A solution of the oil in EtOAc is chromatographed (silica gel, gradient, 5-30% CH3OH/CH2Cl2 -0.1% HOAc). The fractions containing the product are combined and concentrated to give the title compound.

reactant | glycolaldehyde dimer | 1 mmol | C1C(OCC(O1)O)O | C4H8O4
reactant | methyl 2-(4-aminophenyl)propionate | 1 mmol | NC1=CC=C(C=C1)C(C(=O)OC)C | C10H13NO2
reactant | NaBH3CN | 1.2 mmol | [BH3-]C#N.[Na+]
solvent | CH3CN | 10 mL, pH 6-7 | CC#N | C2H3N
product | Ethyl 2-[4-(2-hydroxyethylamino)phenyl]propionate | OCCNC1=CC=C(C=C1)C(C(=O)OCC)C | C13H19NO3
